..SUBCKT irf510_IRF 1 2 3
**************************************
* MDT note: The built-in IRF510 model in LTspice seems way off
* found this model here:
* https://www.electronicspoint.com/forums/threads/installing-irf510-ltspice-model-help.75781/
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
*Commercial Use or Resale Restricted *
* by Symmetry License Agreement *
**************************************
* Model generated on Apr 24, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
* RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
..MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.82703 LAMBDA=0 KP=2.48457
+CGSO=1.72132e-06 CGDO=5.99235e-11
RS 8 3 0.276929
D1 3 1 MD
..MODEL MD D IS=6.52734e-11 RS=0.0458243 N=1.2565 BV=100
+IBV=0.00025 EG=1.2 XTI=1 TT=0
+CJO=2.98645e-10 VJ=0.774158 M=0.422859 FC=0.5
RDS 3 1 4e+06
RD 9 1 0.0673242
RG 2 7 13.1694
D2 4 5 MD1
* Default values used in MD1:
* RS=0 EG=1.11 XTI=3.0 TT=0
* BV=infinite IBV=1mA
..MODEL MD1 D IS=1e-32 N=50
+CJO=1.85121e-10 VJ=0.500044 M=0.651006 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* BV=infinite IBV=1mA
..MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.40332e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* RS=0 BV=infinite IBV=1mA
..MODEL MD3 D IS=1e-10 N=0.4
..ENDS